US09102673B2
Step 1: Ethyl 5-[1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl]-1H-indole-2-carboxylate
To a degassed solution of tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (138 mg, 0.47 mmol), 5-bromo-indole (63 mg, 0.24 mmol), CsF (107 mg, 0.71 mmol), and X-Phos (11.2 mg, 0.023 mmol) in dioxane (2 mL) was added palladium acetate (2.6 mg, 0.012 mmol) under nitrogen. The mixture was then heated to 90 C overnight, cooled to r.t., and diluted with EtOAc. Following filtration and concentration in vacuo, the residue was purified on silica (0-30% EtOAc/hexanes) to yield the title product.

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 0.47 mmol, 138 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | 5-bromo-indole | 0.24 mmol, 63 mg | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | CsF | 0.71 mmol, 107 mg | [F-].[Cs+]
reactant | X-Phos | 0.023 mmol, 11.2 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.012 mmol, 2.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 5-[1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl]-1H-indole-2-carboxylate | C(C)(C)(C)OC(=O)N1N=CC(=C1)C=1C=C2C=C(NC2=CC1)C(=O)OCC | C19H21N3O4
